US04218472
2-tert.-Butylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol
A solution of n-butyllithium in hexane (6 ml of a 2 M solution) is added dropwise under nitrogen to a stirred suspension of powdered trimethylsulphonium iodide in anhydrous tetrahydrofuran (30 ml) at 0° C. After stirring for 5 minutes, a solution of spiro(cyclopentane-1,1'-indene)-3'-carbaldehyde (2.0 g) in tetrahydrofuran (25 ml) is added. Stirring is continued at 0° C. for 1 hour, whereupon tert.-butylamine (1.0 g) is added and the mixture is allowed to come to about 20° C. After 24 hours, water (200 ml) is added and the solution is extracted three times with diethyl ether. The combined extracts are washed, dried and concentrated to about 50 ml. An excess of hydrogen chloride is added and the precipitated salt is collected and crystallized from ethanol; m.p. 292° C.

reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsulphonium iodide | [I-].C[S+](C)C
reactant | spiro(cyclopentane-1,1'-indene)-3'-carbaldehyde | 2.0 g | C12(C=C(C3=CC=CC=C13)C=O)CCCC2 | C14H14O
reactant | tert.-butylamine | 1.0 g | C(C)(C)(C)N | C4H11N
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 2-tert.-Butylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | C(C)(C)(C)NCC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C19H27NO
